* source ERG
R_R1         0 N04444  4.7k TC=0,0 
C_Cs         0 N04310  100u  TC=0,0 
R_RS         0 N04310  220 TC=0,0 
R_RD         N042481 VCC  2.2k TC=0,0 
C_C1         N04272 N04280  10u  TC=0,0 
J_J1         N042481 N04280 N04310 J2N4393 
V_Vin         N04272 0  
+SIN 0 {v} 1k 0 0 0
R_RG         0 N04280  1meg TC=0,0 
V_V1         VCC 0 15Vdc
C_C2         N04322 N04444  10u  TC=0,0 
.PARAM  v=1
