* source ASD
R_RD         N033891 VCC  2.2k TC=0,0 
V_V1         VCC 0 15Vdc
C_Cs         0 N03467  100u  TC=0,0 
J_J1         N033891 N03437 N03467 J2N4393 
V_Vin         N03429 0  
+SIN 0 {v} 1k 0 0 0
R_RG         0 N03437  1meg TC=0,0 
R_RS         0 N03467  220 TC=0,0 
C_C1         N03429 N03437  10u  TC=0,0 
C_C2         N03479 N03724  10u  TC=0,0 
R_R1         0 N03724  4.7k TC=0,0 
.PARAM  v=1
