* source ERGASIA
V_V1         N00762 0  
+SIN 0 10m 1k 0 0 0
C_C1         N00762 N00769  10u  TC=0,0 
C_C2         N00823 N00788  10u  TC=0,0 
C_Ce         0 N00800  100u  TC=0,0 
R_R1         N00769 VCC  141 TC=0,0 
R_R2         0 N00769  33k TC=0,0 
R_Rc         N00788 VCC  4.7k TC=0,0 
R_Re         0 N00800  1.5k TC=0,0 
R_RL         0 N00823  10k TC=0,0 
Q_Q1         N00788 N00769 N00800 BC238 
V_V2         VCC 0 15Vdc
