* source TEN
M_M3         N00249 N00249 N00372 N00372 nfet  
+ L=0.7u  
+ W=2.1u         
M_M4         N00253 N00249 N00372 N00372 nfet  
+ L=0.7u  
+ W=2.1u         
M_M6         N00257 N00253 N00372 N00372 nfet  
+ L=0.7u  
+ W=12.6u         
M_M1         N00249 0 N00312 N00312 pfet  
+ L=0.7u  
+ W=4.2u         
M_M2         N00253 N03863 N00312 N00312 pfet  
+ L=0.7u  
+ W=4.2u         
M_M5         N00312 N00261 N00384 N00384 pfet  
+ L=0.7u  
+ W=5u         
M_M7         N00257 N00261 N00384 N00384 pfet  
+ L=0.7u  
+ W=15.4u         
M_M8         N00261 N00261 N00384 N00384 pfet  
+ L=0.7u  
+ W=1.4u         
I_IREF         N00261 N00372 DC 10uAdc  
V_VDD         N00384 0 2.07Vdc
V_VSS         0 N00372 -2.07Vdc
C_Cc         N00253 N00257  0.738p  TC=0,0 
C_CL         0 N00257  2.9p  TC=0,0 
V_V1         N03863 0  AC 1
+SIN 0 1 10k 0 0 0
